US06506901B2
Step B: 3-[(4-{[(2S)-2-Benzyloxy-3-(4-hydroxy-phenoxy)-propylamino]-methyl}-piperidine-1-carbonyl)-amino]-benzoic Acid
A mixture of 3-[(4-{[(2S)-2-benzyloxy-3-(4-hydroxy-phenoxy)-propylamino]-methyl}-piperidine-1-carbonyl)-amino]-benzoic acid ethyl ester (0.112 g, 0.43 mmol) and ammonium formate (0.063 g, 1 mmol) in 5 mL of methanol over 0.112 g of 10% palladium on carbon was stirred at ambient temperature overnight. The catalyst was filtered (solka floc) and the filtrate concentrated in vacuo. Trituration of the crude solid foam with Et2O provided 0.057 g of the title compound as an off-white solid.

reactant | 3-[(4-{[(2S)-2-benzyloxy-3-(4-hydroxy-phenoxy)-propylamino]-methyl}-piperidine-1-carbonyl)-amino]-benzoic acid ethyl ester | 0.43 mmol, 0.112 g | C(C)OC(C1=CC(=CC=C1)NC(=O)N1CCC(CC1)CNC[C@@H](COC1=CC=C(C=C1)O)OCC1=CC=CC=C1)=O | C32H39N3O6
reactant | ammonium formate | 1 mmol, 0.063 g | C(=O)[O-].[NH4+]
solvent | methanol | 5 mL | CO | CH4O
catalyst | palladium on carbon | 0.112 g | [Pd] | Pd
product | 3-[(4-{[(2S)-2-Benzyloxy-3-(4-hydroxy-phenoxy)-propylamino]-methyl}-piperidine-1-carbonyl)-amino]-benzoic Acid | 0.057 g | C(C1=CC=CC=C1)O[C@@H](CNCC1CCN(CC1)C(=O)NC=1C=C(C(=O)O)C=CC1)COC1=CC=C(C=C1)O | C30H35N3O6
